* C:\Users\hotma\Documents\Solar-project\LTSpice\voltage adder.asc
* Generated by LTspice 24.1.10 for Windows.
R1 N006 0 20k
R2 N004 N006 10k
R3 N003 N005 10k
R4 N003 N002 20k
X§U1 N006 N003 N001 0 N004 OP747 ;§pnba In+)In-)V+)V-)OUT
V1 N005 0 SINE(0 5 1)
V2 N001 0 5
R5 N002 0 100k
R6 N001 N002 100k
.tran 10
.lib ADI.lib
.backanno
.end
